US07576108B2
d: (Z)4-Cyclopentyl-2-(5-methanesulfonyl-thiophen-2-yl)-but-2-enoic acid ethyl ester
Add a suspension of oxone® (2.07 g, 3.37 mmol) in water (10 mL) to a solution of (Z)-4-cyclopentyl-2-(5-methylsulfanyl-thiophen-2-yl)-but-2-enoic acid ethyl ester (804 mg, 2.59 mmol) in methanol (14 mL). Stir for 1 h, monitor completion of the reaction by LCMS. Filter the reaction mixture, concentrate the filtrate and extract the residue with dichloromethane. Combine the extracts, wash them with saturated aqueous sodium chloride solution, dry them over sodium sulfate, and remove solvent under vacuum to give 939 mg of the product. MS (m/e): 343.0 (M+H).

reactant | oxone | OOS(=O)[O-].[K+]
reactant | (Z)-4-cyclopentyl-2-(5-methylsulfanyl-thiophen-2-yl)-but-2-enoic acid ethyl ester | 2.59 mmol, 804 mg | C(C)OC(/C(=C/CC1CCCC1)/C=1SC(=CC1)SC)=O | C16H22O2S2
reactant | methanol | 14 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (Z)4-Cyclopentyl-2-(5-methanesulfonyl-thiophen-2-yl)-but-2-enoic acid ethyl ester | 939 mg | C(C)OC(/C(=C/CC1CCCC1)/C=1SC(=CC1)S(=O)(=O)C)=O | C16H22O4S2
